US07893056B2
Sodium metal (0.91 g, 40 mmol) was dissolved in MeOH (100 mL) to form sodium methoxide. 2,2-Difluoroethanimidamide.HCl (1.73 g, 13 mmol) was added followed by dimethyl fluoropropanedioate (2.0 g, 13 mmol). The resulting solution was stirred at 80° C. for 3 hours, then cooled to room temperature. Aqueous HCl (6 mL, 6M, 36 mmol) was added and the resulting mixture was concentrated in vacuo. The remaining solid was washed with cold water and filtered yielding 2-(difluoromethyl)-5-fluoro-6-hydroxy-4(1H)-pyrimidinone (1.43 g, 61%)

reactant | 2,2-Difluoroethanimidamide | FC(C(N)=N)F | C2H4F2N2
reactant | HCl | 13 mmol, 1.73 g | Cl | ClH
reactant | dimethyl fluoropropanedioate | 13 mmol, 2.0 g | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | HCl | 36 mmol, 6M, 6 mL | Cl | ClH
product | 2-(difluoromethyl)-5-fluoro-6-hydroxy-4(1H)-pyrimidinone | 1.43 g, 61% | FC(C=1NC(=C(C(N1)=O)F)O)F | C5H3F3N2O2
